US07138425B2
b) 2-(3-Nitro-6-fluorophenyl)-6,7-difluorobenzoxazole
Prepared by the method of Example 15b), from N-(2-hydroxy-3,4-difluorophenyl)-2-fluoro-5-nitrobenzamide (718 mg, 2.3 mmol) and p-toluenesulfonic acid monohydrate (961 g, 5.1 mmol) the subtitle compound was obtained (303 mg, 45%). 1H NMR (DMSO) δ 8.92(m, 1H), 8.57(m, 1H), 7.85(d, 1H), 7.81(m, 1H), 7.61(m, 1H).

reactant | N-(2-hydroxy-3,4-difluorophenyl)-2-fluoro-5-nitrobenzamide | 2.3 mmol, 718 mg | OC1=C(C=CC(=C1F)F)NC(C1=C(C=CC(=C1)[N+](=O)[O-])F)=O | C13H7F3N2O4
reactant | p-toluenesulfonic acid monohydrate | 5.1 mmol, 961 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 2-(3-Nitro-6-fluorophenyl)-6,7-difluorobenzoxazole | [N+](=O)([O-])C=1C=C(C(=CC1)F)C=1OC2=C(N1)C=CC(=C2F)F | C13H5F3N2O3
